US07026357B2
Preparation E: 3-[4-(2,3-Dihydro-1,4-benzodioxin-2-ylmethyl)-1-piperazinyl]aniline
A solution of 54.2 mmol (10 g) of 2-chloromethyl-2,3-dihydro-1,4-benzodioxin, 54.2 mmol (9.2 g) of 3-nitrophenylpiperazine and 6 g of potassium hydrogen carbonate in 100 ml of methyl-4-pentanone is heated at reflux for 72 hours. After cooling, the reaction mixture is concentrated. The residue is taken up in 200 ml of water and extracted with 200 ml of dichloromethane. The organic phase is dried over magnesium sulphate, concentrated and purified by chromatography on silica gel, using as eluant a 99/1/0.1 dichloromethane/methanol/ammonium hydroxide mixture, to yield the expected product.

reactant | 2-chloromethyl-2,3-dihydro-1,4-benzodioxin | 54.2 mmol, 10 g | ClCC1COC2=C(O1)C=CC=C2 | C9H9ClO2
reactant | 3-nitrophenylpiperazine | 54.2 mmol, 9.2 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCNCC1 | C10H13N3O2
reactant | potassium hydrogen carbonate | 6 g | C(O)([O-])=O.[K+]
solvent | methyl-4-pentanone | 100 ml | CCCCC(C)=O | C6H12O
product | 3-[4-(2,3-Dihydro-1,4-benzodioxin-2-ylmethyl)-1-piperazinyl]aniline | O1C(COC2=C1C=CC=C2)CN2CCN(CC2)C=2C=C(N)C=CC2 | C19H23N3O2
